US05322528
Preparation of 10,10 bis-(4-hydroxyl phenyl) anthrone
Anthraquinone (60 g) phenol (150 g) and 3-mercaptopropionic acid (8 g) were placed in a round-bottom flask. The mixture was heated at 65° C., and then dry hydrogen chloride was bubbled in for about 24 h. The phenol, hydrogen chloride, and cocatalyst were removed by steam distillation. This product was recrystallized from methanol as a slightly yellowish granular mass: MP 320°-322° C.

reactant | Anthraquinone | 60 g | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
reactant | 3-mercaptopropionic acid | 8 g | SCCC(=O)O | C3H6O2S
product | 10,10 bis-(4-hydroxyl phenyl) anthrone | OC1=CC=C(C=C1)C1(C=2C=CC=CC2C(C2=CC=CC=C12)=O)C1=CC=C(C=C1)O | C26H18O3
